US09290500B2
A pressure bottle is charged with (rac)-{(1R,2R,3S,4R)-4-[(5-chloro-6-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7-yl)amino]-2,3-dihydroxycyclopentyl}methyl rel-sulfamate (111 mg, 0.237 mmol), tetrahydrofuran (1.4 mL) and Pd [10% on carbon/50% water wet; Degussa type) 76 mg, 0.036 mmol)]. The reaction is stirred at room temperature under an atmosphere of hydrogen (30 psi) for 18 hr. The reaction mixture is filtered through celite and concentrated in vacuo. The crude material is purified by preparative HPLC to provide (rac)-{(1R,2R,3S,4R)-2,3-dihydroxy-4-[(6-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7-yl)amino]cyclopentyl}methyl rel-sulfamate (15 mg, yield 13%). LCMS: (FA) M+1 434; 1H NMR (400 MHz, MeOD) δ 8.05-7.98 (m, 2H), 7.94 (s, 1H), 7.43 (t, J=7.4 Hz, 2H), 7.36 (t, J=7.3 Hz, 1H), 6.69 (s, 1H), 4.20 (t, J=7.8 Hz, 2H), 4.03-3.94 (m, 2H), 2.64 (s, 1H), 2.54-2.31 (m, 5H), 1.64-1.51 (m, 1H).

reactant | (rac)-{(1R,2R,3S,4R)-4-[(5-chloro-6-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7-yl)amino]-2,3-dihydroxycyclopentyl}methyl rel-sulfamate | 0.237 mmol, 111 mg | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC1=C(C(=NC=2N1N=C(C2)C2=CC=CC=C2)Cl)C)O)O)(=O)=O | C19H22ClN5O5S
catalyst | Pd | [Pd] | Pd
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
product | (rac)-{(1R,2R,3S,4R)-2,3-dihydroxy-4-[(6-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-7-yl)amino]cyclopentyl}methyl rel-sulfamate | 15 mg, yield 13% | S(N)(OC[C@@H]1[C@H]([C@H]([C@@H](C1)NC1=C(C=NC=2N1N=C(C2)C2=CC=CC=C2)C)O)O)(=O)=O | C19H23N5O5S
